US07846944B2
At RT, bromine (206 mg, 1.29 mmol) was added to a solution of 1(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (319 mg, 1.23 mmol) in 1.5 mL of glacial acetic acid. After stirring at RT for 30 min, it was diluted with water and stirred for 5 min. The precipitated white solid was filtered off and rinsed with water, collected and dried to afford 5-bromo-1-(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (323 mg). The filtrate was extracted three times with EtOAc. The combined EtOAc layers were washed with 2 N NaOH followed by brine, dried and concentrated to afford additional 5-bromo-1-(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (82 mg). The crude material was used without further purification. MS (ESI, pos.ion) m/z: 338.0/340.0 (M+1).

reactant | bromine | 1.29 mmol, 206 mg | BrBr | Br2
reactant | 1(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 1.23 mmol, 319 mg | ClC1=C(C=CC=C1)N1N=CC2=C1N(C(C=C2)=O)C | C13H10ClN3O
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-bromo-1-(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 323 mg | BrC1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2)Cl | C13H9BrClN3O
